US04324790
A mixture of 7.7 g of 5-nitro-1H-indole and 225 ml of ethanol saturated with hydrogen chloride and 22.5 g of the hydrate of 4-piperidone hydrochloride was refluxed for 3 hours under a nitrogen atmosphere and the mixture was then stirred at room temperature for one hour and at 0° C. for another hour. The mixture was filtered and the recovered product was rinsed with iced ethanol, with ethyl acetate and ether to obtain 14 g of raw product. The latter was crystallized from 600 ml of 1-1 methanol-water mixture and after standing overnight at 0° to 5° C., the mixture was filtered. The product was rinsed with methanol and dried to obtain 9.8 g of 3-(1,2,3,6-tetrahydro-4-pyridinyl)-5-nitro-1H-indole hydrochloride melting at 275° C.

reactant | 5-nitro-1H-indole | 7.7 g | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | hydrogen chloride | Cl | ClH
reactant | 4-piperidone hydrochloride | Cl.N1CCC(CC1)=O
solvent | ethanol | 225 ml | C(C)O | C2H6O
product | 3-(1,2,3,6-tetrahydro-4-pyridinyl)-5-nitro-1H-indole hydrochloride | 9.8 g | Cl.N1CCC(=CC1)C1=CNC2=CC=C(C=C12)[N+](=O)[O-] | InChI=1S/C13H13N3O2.ClH/c17-16(18)10-1-2-13-11(7-10)12(8-15-13)9-3-5-14-6-4-9;/h1-3,7-8,14-15H,4-6H2;1H
